US08193199B2
N6-((8-Chloro-2-(2-chlorophenyl)quinolin-3-yl)methyl)-9H-purine-2,6-diamine
A mixture of (8-chloro-2-(2-chlorophenyl)quinolin-3-yl)methanamine (144.8 mg, 0.478 mmol), 2-amino-6-chloropurine (89.1 mg, 0.525 mmol) and N,N-diisopropylethylamine, redestilled, 99.5% (0.166 mL, 0.955 mmol) in 1-butanol, anhydrous, 99.8% (5.24 mL) was heated to reflux and stirred overnight. The reaction was cooled solvents removed and subjected to chromatography, 89:9:1 (DCM/MeOH,NH4OH)gradient, 1H NMR (400 MHz, DMSO-d6) δ ppm 12.08 (1H, br. s.), 8.36 (1H, s), 8.01 (1H, d, J=8.2 Hz), 7.92 (1H, d, J=6.3 Hz), 7.47-7.71 (8H, m), 5.56 (2H, br. s.), 4.59 (2H, br. s.) Mass Spectrum (ESI) m/e=436.1 (M+1).

reactant | (8-chloro-2-(2-chlorophenyl)quinolin-3-yl)methanamine | 0.478 mmol, 144.8 mg | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)Cl)CN | C16H12Cl2N2
reactant | 2-amino-6-chloropurine | 0.525 mmol, 89.1 mg | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1-butanol | C(CCC)O | C4H10O
product | N6-((8-Chloro-2-(2-chlorophenyl)quinolin-3-yl)methyl)-9H-purine-2,6-diamine | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)Cl)CNC1=C2N=CNC2=NC(=N1)N | C21H15Cl2N7
